US04122183
2-(4-Chlorobutyramido)-4-methyloxazole
2-Amino-4-methyloxazole (5.0 g., 0.0509 mol) was dissolved in dry benzene (100 mls.) and triethylamine (5.70 g., 0.0563 mol) was added. The mixture was stirred vigorously at room temperature and 4-chlorobutyrylchloride (7.88 g., 0.0558 mol) in dry benzene (50 mls.) was added rapidly. After the addition the mixture was heated under reflux for 2 hours. The mixture was then cooled and fltered. The filtrate was placed in a separating funnel and washed successively with water (1 × 100 mls.), 10% Na2CO3 (2 × 100 mls.) and water (3 × 100 mls.). The organic layer was driec over magnesium sulphate and evaporated under vacuum. The product was recrystallised from ethyl acetate/hexane. Wt. = 2.47 g. m.p. 98° C. (Yield = 23.92%).

reactant | 2-Amino-4-methyloxazole | 0.0509 mol, 5.0 g | NC=1OC=C(N1)C | C4H6N2O
reactant | triethylamine | 0.0563 mol, 5.70 g | C(C)N(CC)CC | C6H15N
reactant | 4-chlorobutyrylchloride | 0.0558 mol, 7.88 g | ClCCCC(=O)Cl | C4H6Cl2O
solvent | benzene | 100 mls | C1=CC=CC=C1 | C6H6
solvent | benzene | 50 mls | C1=CC=CC=C1 | C6H6
product | 2-(4-Chlorobutyramido)-4-methyloxazole | Yield = 23.92% | ClCCCC(=O)NC=1OC=C(N1)C | C8H11ClN2O2
